US07662862B2
a) N-[3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-acetamide
3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propylamine (516 mg, 2.39 mmol) was disolved in a vigorously stirred mixture of CH2Cl2 (2.7 ml) and NaHCO3 (sat. solution, 2.7 ml). After the addition of acetic anhydride (348.9 mg, 3.42 mmol), stirring was applied for 90 min at room temperature. Then, the layers were separated. Water (6 ml) was added to the bicarbonate layer and was extracted with CH2Cl2 (3×6 ml). The combined organic layers were dried with Na2SO4, filtered and evaporated too dryness to afford as slightly brown solid identified as the acetylated compound (535 mg, 87% yield).

reactant | 3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propylamine | 2.39 mmol, 516 mg | C1CC2N(CCC3=CC=CC1=C23)CCCN | C14H20N2
reactant | NaHCO3 | 2.7 ml | C(=O)(O)[O-].[Na+]
reactant | acetic anhydride | 3.42 mmol, 348.9 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 2.7 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-acetamide | 535 mg, 87% yield | C1CC2N(CCC3=CC=CC1=C23)CCCNC(C)=O | C16H22N2O
